US06916819B2
2. Preparation of 2,5-dichloro-4-nitro-pyridine 1-oxide
At 0° C., 30% oleum (13 mL) is added slowly to fuming HNO3 (22 mL) and the resulting mixture is added slowly to the solution of 2,5-dichloro-pyridine 1-oxide (5.2 g, 31 mmol) in concentrated H2SO4. After addition, the reaction mixture is warmed to room temperature over 1 hr. then heated to 80° C. for 2 hr. After cooling to room temperature, the mixture is poured into ice (120 g) and precipitate is formed gradually. The solid is collected by filtration and washed with water. The product is obtained as yellow solid. 1H NMR (CDC3) δ 8.46 (s, 1H), 8.25 (s, 1H).

reactant | oleum | 13 mL | OS(=O)(=O)O.O=S(=O)=O
reactant | HNO3 | 22 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2,5-dichloro-pyridine 1-oxide | 31 mmol, 5.2 g | ClC1=[N+](C=C(C=C1)Cl)[O-] | C5H3Cl2NO
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 2,5-dichloro-4-nitro-pyridine 1-oxide | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])Cl)[O-] | C5H2Cl2N2O3
